US05280026
2-(2-Methylphenylamino)-4-(phenylamino)thieno[2,3-d]-pyrimidine hydrochloride
2-Chloro-4-(phenylamino)thieno[2,3-d]pyrimidine (3 g, 0.0115 mol) and o-toluidine (2.46 g, 0.023 mol) were heated at 140° for 3 hours. Addition of diethyl ether gave a solid which was collected by filtration and dried, (3.7 g). Recrystallization from ethanolic HCl gave the title compound as the hydrochloride salt, (1.67 g), m.p. 232°-234°.

reactant | 2-Chloro-4-(phenylamino)thieno[2,3-d]pyrimidine | 0.0115 mol, 3 g | ClC=1N=C(C2=C(N1)SC=C2)NC2=CC=CC=C2 | C12H8ClN3S
reactant | o-toluidine | 0.023 mol, 2.46 g | NC=1C(=CC=CC1)C | C7H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-Methylphenylamino)-4-(phenylamino)thieno[2,3-d]-pyrimidine hydrochloride | Cl.CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)SC=C2)NC2=CC=CC=C2 | InChI=1S/C19H16N4S.ClH/c1-13-7-5-6-10-16(13)21-19-22-17(15-11-12-24-18(15)23-19)20-14-8-3-2-4-9-14;/h2-12H,1H3,(H2,20,21,22,23);1H
